US07612091B2
(S)-3-Benzyloxycarbonylamino-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester
Potassium fluoride (2.8 g), was added portionwise to a stirred solution of (S)-3-benzyloxycarbonylamino-5-bromo-4-oxo-pentanoic acid tert-butyl ester (18.6 g) and 2,3,5,6-tetrafluorophenol (9.3 g) in anhydrous DMF (250 mL) under nitrogen at room temperature. The mixture was then stirred for 18 hours before being quenched with ethyl acetate and water. The organic layer was removed and washed with sodium bicarbonate solution, dried (magnesium sulfate) and concentrated to give the sub-title product as an off-white solid (21.1 g, 96%); 1H NMR (400 MHz, CDCl3) δ 1.43 (9H, s), 2.76 (1H, dd), 3.06 (1H, dd), 4.67-4.71 (1H, m), 5.12 (1h, d), 5.22 (1H, d), 5.86 (1H, d), 7.35-7.38 (5H, m); 19F NMR (376 MHz, CDCl3) (proton decoupled) δ −13998, −140.00, −140.04, −140.06, −157.05, −157.07, −157.11, −157.13; MS ES (+) 486.23 (M+H).

reactant | Potassium fluoride | 2.8 g | [F-].[K+]
reactant | (S)-3-benzyloxycarbonylamino-5-bromo-4-oxo-pentanoic acid tert-butyl ester | 18.6 g | C(C)(C)(C)OC(C[C@@H](C(CBr)=O)NC(=O)OCC1=CC=CC=C1)=O | C17H22BrNO5
reactant | 2,3,5,6-tetrafluorophenol | 9.3 g | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | (S)-3-Benzyloxycarbonylamino-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 21.1 g, 96% | C(C)(C)(C)OC(C[C@@H](C(COC1=C(C(=CC(=C1F)F)F)F)=O)NC(=O)OCC1=CC=CC=C1)=O | C23H23F4NO6
